US08809539B2
To a mixture of 1-benzylpiperidine-3,3-dicarboxylic acid 3,3-dibenzyl ester (19.6 g 41.8 mmol) and sodium carbonate (5.1 g, 48.1 mmol) in chloroform cooled with a water/ice bath, is added 2,2,2-trichloroethyl chloroformate (11 g, 51.8 mmol). The mixture is stirred overnight at room temperature and concentrated under reduced pressure. The residue is dissolved in diethyl oxide, washed with water, dried over magnesium sulphate and concentrated under reduced pressure to give piperidine-1,3,3-tricarboxylic acid 1-(2,2,2-trichloroethyl) 3,3-dibenzyl ester which cristallizes upon standing.

reactant | 1-benzylpiperidine-3,3-dicarboxylic acid 3,3-dibenzyl ester | 41.8 mmol, 19.6 g | C(C1=CC=CC=C1)OC(=O)C1(CN(CCC1)CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C28H29NO4
reactant | sodium carbonate | 48.1 mmol, 5.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 51.8 mmol, 11 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | piperidine-1,3,3-tricarboxylic acid 1-(2,2,2-trichloroethyl) 3,3-dibenzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CN(CCC1)C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC1=CC=CC=C1 | C24H24Cl3NO6
